* N:\My Documents\ece317\ECE317_labs\lab4\FullConverter_4.asc
V1 N001 0 10
C1 N001 0 100µ
R1 N001 Comp 1k
Q1 N001 Comp N005 0 2N2222
Q2 0 Comp N005 0 2N2907
M1 N002 N005 N001 N001 RSQ015P10
L1 N002 N003 560µ Ipk=0.55 Rser=0.23 Rpar=1.19795e+06 Cpar=0
C2 N003 0 100µ
D1 0 N002 DFLS220L
R2 N003 load_task4c 5
R3 load_task4c 0 20
M2 N004 Vs N006 N006 RTQ020N05
R4 Vs N006 470
XU1 0 saw NC_01 Vcc15 N012 saw saw Vcc15 NE555
V2 Vcc15 0 15
R6 P001 P002 560
Q5 saw N011 P002 0 2N2907
D2 N011 Vcc15 1N750
C3 N012 0 10n
R5 N011 0 680
C4 saw 0 3.3n
C5 Vcc15 0 1µ
R§Freq_adj1 Vcc15 P001 2.2k
XU2 0 saw comp_input 0 NC_02 NC_03 Comp Vcc15 LT1011
R7 Vcc15 NC_04 4.7k
C7 Vcc15 0 1µ
C6 comp_input N010 1µ
R9 N008 comp_input 220k
XVR1 N007 N009 N008 potentiometer R=10k wiper=.5
R10 Vcc15 N007 12k
R8 N009 0 3.3k
V3 N010 0 SINE(0 .5 100)
.model D D
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.mos
* DC to DC buck converter as specified by Fig. 14.1
* Sawtooth generator
.tran 20m
* Comparator
* DC + superimposed AC
* duty ratio adj
* ECE317 Lab4
* Regan Garner \\\\ Nicholas Porter \\\\ Christine Jugau \\\\ Evie Strohmeyer
.lib LTC1.lib
.lib NE555.sub
.lib potentiometer.lib
.backanno
.end
