* N:\My Documents\ece317\converter\lab4\sawtooth_comp_dcad.asc
XU1 0 saw N009 N001 N010 saw saw N001 NE555
V2 N001 0 15
R6 P001 P002 560
Q5 saw N008 P002 0 2N2907
D2 N008 N001 1N750
C3 N010 0 10n
R5 N008 0 2.7k
C4 saw 0 3.3n
C5 N001 0 1µ
R§Freq_adj N001 P001 2440
XU2 0 saw N004 0 NC_01 NC_02 Comp N001 LT1011
R7 N001 Comp 4.7k
C7 N001 0 1µ
C6 N004 N007 1µ
R9 N005 N004 220k
XVR1 N003 N006 N005 potentiometer R=10k wiper={R}
R10 N001 N003 12k
R8 N006 0 3.3k
vi N007 0 0
.model D D
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.bjt
* Sawtooth generator
.tran .07m
* Comparator
* DC + superimposed AC
* duty ratio adj
.step param R .1 1 .1
.lib LTC1.lib
.lib NE555.sub
.lib potentiometer.lib
.backanno
.end
